US06080743
a) Furan-2-carboxylic acid (7-bromo-2,3-dimethoxy-quinoxalin-5-ylmethyl)-amide
300 mg (1 mmol) of 5-aminomethyl-7-bromo-2,3-dimethoxy-quinoxaline hydrochloride, 124 mg (1.1 equiv.) of furan-2-carboxylic acid, 212 mg (1.1 equiv.) of N-(3-dimethylaminopropyl)-N'-ethyl-carbodiimide hydrochloride and 12.2 mg (0.1 equiv.) of 4-dimethylamino-pyridine are stirred in dried THF at 20° C. for 20 hours. The mixture is poured onto water, and the solid is filtered off and washed with water and diethyl ether. After drying under a high vacuum, the title compound is obtained in the form of a beige solid.

reactant | 5-aminomethyl-7-bromo-2,3-dimethoxy-quinoxaline hydrochloride | 1 mmol, 300 mg | Cl.NCC1=C2N=C(C(=NC2=CC(=C1)Br)OC)OC
reactant | furan-2-carboxylic acid | 124 mg, 1.1 equiv. | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | N-(3-dimethylaminopropyl)-N'-ethyl-carbodiimide hydrochloride | 212 mg, 1.1 equiv. | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylamino-pyridine | 12.2 mg, 0.1 equiv. | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | C1CCOC1 | C4H8O
product | Furan-2-carboxylic acid (7-bromo-2,3-dimethoxy-quinoxalin-5-ylmethyl)-amide | BrC1=CC(=C2N=C(C(=NC2=C1)OC)OC)CNC(=O)C=1OC=CC1 | C16H14BrN3O4
